US04000164
To a cooled mixture of 40.0 g (0.106 mole) of 5-(cis-9-octadecen-1-yloxy)-3-furoic acid in methylene chloride is added 30 ml of thionyl chloride. The mixture is stirred for 5 hours. Then the solvent and excess thionyl chloride is removed under reduced pressure affording the crude 5-(cis-9-octadecen-1-yloxy)-3-furoyl chloride. A mixture of 11.6 g (0.100 moles) of methyl acetoacetate and 2.3 g of sodium in 1 liter of benzene is refluxed for 20 hours, then cooled, and the crude 5-(cis-9-octadecen-1-yloxy)-3-furoyl chloride is added over a two hour period. The mixture is refluxed for 6 hours, cooled by the addition of ice and mixed well. The benzene layer is separated, washed with 5% sodium bicarbonate solution and dried. The benzene is distilled off under reduced pressure yielding 2-[5-(cis-9-octadecen-1-yloxy)-3-furoyl]acetoacetic acid, methyl ester. To a solution of 3.3 g of ammonium chloride in 15 ml of water at 40° C is added 10 g of the above ester maintaining the temperature at 40° C for 15 minutes followed by rapid cooling. The solution is extracted with ether, the extract dried, and evaporated to dryness affording 2-[5-(cis-9-octadecen-1-yloxy)-3-furoyl]acetic acid methyl ester.

reactant | methyl acetoacetate | 0.100 moles, 11.6 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium | 2.3 g | [Na] | Na
reactant | 5-(cis-9-octadecen-1-yloxy)-3-furoyl chloride | C(CCCCCCC\C=C/CCCCCCCC)OC1=CC(=CO1)C(=O)Cl | C23H37ClO3
solvent | benzene | 1 liter | C1=CC=CC=C1 | C6H6
product | 2-[5-(cis-9-octadecen-1-yloxy)-3-furoyl]acetoacetic acid, methyl ester | C(CCCCCCC\C=C/CCCCCCCC)OC1=CC(=CO1)C(=O)C(C(=O)OC)C(=O)C | C28H44O6
